US07989462B2
(3,4,5-trimethoxy-phenyl)-(2-methyl-quinazolin-4-yl)-methylamine
The title compound was prepared from (3,4,5-trimethoxy-phenyl)-(2-methyl-quinazolin-4-yl)-amine (232 mg, 0.71 mmol), methyl iodide (0.07 ml, 1.08 mmol), sodium hydride (43 mg, 1.08 mmol, 60% oil dispersion) in DMF similar to example 21 to give 65 mg (27%) of white solids. 1H NMR (CDCl3): 7.75 (d, J=8.4 Hz, 1H), 7.58-7.53 (m, 1H), 7.11-7.00 (m, 2H), 6.39 (s, 2H), 3.88 (s, 3H), 3.73 (s, 6H), 3.62 (s, 3H), 2.74 (s, 3H).

reactant | (3,4,5-trimethoxy-phenyl)-(2-methyl-quinazolin-4-yl)-amine | 0.71 mmol, 232 mg | COC=1C=C(C=C(C1OC)OC)NC1=NC(=NC2=CC=CC=C12)C | C18H19N3O3
reactant | methyl iodide | 1.08 mmol, 0.07 ml | CI | CH3I
reactant | sodium hydride | 1.08 mmol, 43 mg | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | (3,4,5-trimethoxy-phenyl)-(2-methyl-quinazolin-4-yl)-methylamine | COC=1C=C(C=C(C1OC)OC)N(C)C1=NC(=NC2=CC=CC=C12)C | C19H21N3O3
